US05834506
(S)-5-Hydroxy-3-oxo-5,7-diphenyl-heptanoic acid methyl ester
The title compound was prepared using (S)-3-hydroxy-3,5-diphenyl-pentanoic acid from Example AA (0.7 g, 2.59 mmol), THF (30 mL), and carbonyl diimidazole (0.5 g, 3.08 mmol). The reaction was stirred for 6 hours at room temperature; bis [3-methoxy-3-oxopropanoato (1-)-O,O'] magnesate from Example BB (0.8 g, 3.10 mmol) was added, and the reaction was stirred for 3 days at room temperature. The reaction was concentrated and the residue partitioned between EtOAc and 1N HCl. The organic layer was washed with aqueous NaHCO3 and brine, dried (MgSO4) and concentrated. Purification by silica gel chromatography, eluting with EtOAc:hexane (20:80) gave the title compound. 1H NMR (CDCl3) δ 2.01 (m, 1 H), 2.11 (m, 1 H), 2.24 (m, 1 H), 2.64 (m, 1 H), 2.97 (d, 1 H), 3.28 (s, 2 H), 3.30 (d, 1 H), 3.64 (s, 3 H), 4.15 (s, 1 H), 7.03-7.42 (m, 10 H).

reactant | (S)-3-hydroxy-3,5-diphenyl-pentanoic acid | O[C@](CC(=O)O)(CCC1=CC=CC=C1)C1=CC=CC=C1 | C17H18O3
reactant | carbonyl diimidazole | 3.08 mmol, 0.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-5-Hydroxy-3-oxo-5,7-diphenyl-heptanoic acid methyl ester | COC(CC(C[C@@](CCC1=CC=CC=C1)(C1=CC=CC=C1)O)=O)=O | C20H22O4
